US08067445B2
Step 5: {2′-[1-(Acetyl-ethyl-amino)-ethyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester
Prepared according to the procedure described in Example 1, Step 6, using the following starting materials: [2′-(1-ethylamino-ethyl)-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester and acetyl chloride.

reactant | [2′-(1-ethylamino-ethyl)-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)C(C)NCC)=O | C21H24F3NO3
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | {2′-[1-(Acetyl-ethyl-amino)-ethyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)C(C)N(CC)C(C)=O)=O | C23H26F3NO4
